8
R0100 1 0 1
R0200 2 0 1
R0300 3 0 1
R0405 4 5 1
R0605 6 5 1
R0705 7 5 1
L1 4 0 1
L2 1 0 1
L3 6 0 1
L4 2 0 1
E0308 3 8 7 0 1
F0700 7 0 8 0 -1
V0500 5 0 PULSE 0 1 0 0.1 0.1 0.4 1 100
K L3 L4 1
K L1 L2 0.9
.TRAN 10 5E-4 50
